US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-3,4,5-trimethoxyaniline
3,4,5-Trimethoxyaniline (0.216 g, 1.18 mmol), triethylamine (0.119 g, 1.18 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.199 g, 1.18 mmol) were added to a methylene chloride solution (20 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.200 g, 0.535 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) to obtain the titled compound (0.109 g, 0.202 mmol, 38%).

reactant | 3,4,5-Trimethoxyaniline | 1.18 mmol, 0.216 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | triethylamine | 1.18 mmol, 0.119 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.18 mmol, 0.199 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.535 mmol, 0.200 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-3,4,5-trimethoxyaniline | 0.202 mmol, 0.109 g, 38% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC(=C(C(=C2)OC)OC)OC)C1)OC(C)=O)C)=O | C28H29NO10
